US06590127B1
The present invention relates to a process for the preparation of high purity and yield α-asarone, trans 2,4,5-trimethoxy cinnamaldehyde, 2,4,5-trimethoxy-phenyl propionone, from β-asarone or β-asarone rich Acorus calamus oil containing α and γ-asarone by hydrogenating, followed by treatment with DDQ with or without solid support of silica gel or alumina in dry organic solvent and α-asarone can also be obtained by treating the hydrogenated product of β-asarone or β-asarone rich Acorus calamus with DDQ in an aqueous organic solvent to obtain an intermediate 2,4,5-trimethoxy phenyl propionone, which in turn is reduced with sodiumborohydride to obtain the corresponding 2,4,5-trimethoxy-phenyl propanol and followed by final treatment with a dehydrating agent.

reactant | β-asarone | C\C=C/C1=C(OC)C=C(OC)C(OC)=C1 | C12H16O3
reactant | γ-asarone | COC1=CC(=C(C=C1CC=C)OC)OC | C12H16O3
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | α-asarone | C\C=C\C1=C(OC)C=C(OC)C(OC)=C1 | C12H16O3
product | 2,4,5-trimethoxy phenyl propionone | COC1=C(C=C(C(=C1)OC)OC)CCC(CC)=O | C14H20O4
